US04263437
To 59 mg of 2-(4-carbamoylmethylphenoxy)phenylacetic acid was added 1.8 g of polyphosphoric acid, and the mixture was stirred under a dry atmosphere at 100° C. for 50 minutes. After being cooled, the resulting mixture was dissolved in water and then extracted with ethyl acetate. The extract was washed with a 1% sodium hydroxide solution and then with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, which was recrystallized from acetone/n-hexane to give 45 mg (yield: 76%) of (10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-acetamide as light yellow crystals having a melting point of 151.5°-154° C.

reactant | 2-(4-carbamoylmethylphenoxy)phenylacetic acid | 59 mg | C(N)(=O)CC1=CC=C(OC2=C(C=CC=C2)CC(=O)O)C=C1 | C16H15NO4
solvent | water | O | H2O
product | (10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-acetamide | 45 mg, yield: 76% | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)CC(=O)N | C16H13NO3
